US04898874
3-[4-(Bromomethyl)phenyl]-2.1-benzisoxazole
A mixture of 14.9 g (0.071 mole) of 3-(4'-methylphenyl)-2,1-benzisoxazole, 12.7 g (0.071 mole) of N-bromosuccinimide, 0.1 g of dibenzoyl peroxide and 200 ml of carbon tetrachloride was heated at reflux under illumination by a flood lamp for 20 hr. The mixture was filtered while hot and the filtrate was washed twice with 5% aqueous sodium hydroxide, dried over sodium sulfate and concentrated. The residue was dissolved in acetonitrile and filtered to remove insoluble material. The filtrate was concentrated and the residue was recrystallized twice from ethanol and once from 2-propanol (charcoal) to yield 12.1 g (59%) of solid, m.p. 146°-147° C. with decomposition.

reactant | 3-(4'-methylphenyl)-2,1-benzisoxazole | 0.071 mole, 14.9 g | CC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2 | C14H11NO
reactant | N-bromosuccinimide | 0.071 mole, 12.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | dibenzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-[4-(Bromomethyl)phenyl]-2.1-benzisoxazole | 12.1 g, 59% | BrCC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2 | C14H10BrNO
